US09421205B2
(g) tert-Butyl 3-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I28)
Lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I27) (0.246 g, 0.416 mmol) was dissolved in dry THF (10 mL) and dry DMF (2 mL) under an atmosphere of nitrogen. To the solution were added 1-hydroxybenzotriazole (0.067 g, 0.50 mmol) and EDCl (0.096 g, 0.50 mmol) and N,N-diisopropylethylamine (0.290 mL, 1.66 mmol) and the reaction mixture was stirred at room temperature for 10 minutes. Ammonium carbonate (0.160 g, 1.66 mmol) was added in one portion, and the reaction was stirred at room temperature for 45 hours. The volatiles were removed in vacuo and the residual solution was diluted with EtOAc (70 mL) and sat. aq. NaHCO3 (70 mL). The layers were separated and the aqueous layer was extracted with EtOAc (70 mL), the combined organic layers were washed with water (70 mL), brine (70 mL), dried (MgSO4), filtered and concentrated in vacuo to give an off-white solid. The crude product was purified by silica gel chromatography (Biotage Isolera, 40 g Si Cartridge, 0-100% EtOAc in petroleum benzine 40-60° C., then 0-10% methanol in EtOAc) to give the title compound (I28) (0.186 g, 77% yield) as a white solid; 1H NMR (400 MHz, d6-DMSO) δ 10.17 (s, 1H), 8.67 (s, 1H), 7.69 (d, J=8.6 Hz, 2H), 7.44 (brs, 1H), 7.28-7.11 (m, 6H), 6.93 (br s, 1H), 4.02-3.89 (m, 2H), 3.50 (s, 2H), 3.15-3.07 (m, 2H), 3.06-2.98 (m, 2H), 2.89-2.67 (m, 2H), 2.61-2.51 (m, 1H), 1.88 (d, J=11.1 Hz, 1H), 1.74-1.55 (m, 2H), 1.50-1.35 (m, 10H). LCMS Method C: rt 6.57 min; m/z 584.3 [M+H]+.

reactant | Lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 0.416 mmol, 0.246 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)[O-])C(F)(F)F.[Li+]
reactant | 1-hydroxybenzotriazole | 0.50 mmol, 0.067 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCl | 0.50 mmol, 0.096 g | CCN=C=NCCCN(C)C.Cl
reactant | N,N-diisopropylethylamine | 1.66 mmol, 0.290 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Ammonium carbonate | 1.66 mmol, 0.160 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 77% yield | NC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)C2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C31H36F3N5O3
